US07951803B2
A solution of 5.5 mL (41 mmol, 1.0 eq.) of dimethylformamide dimethyl acetal and 5.0 mL (41 mmol, 1.0 eq.) pyruvic aldehyde dimethyl acetal was heated at 100° C. for 16 h. Methanol was removed in vacuo to afford a brown oil. A solution of 1.8 g (45 mmol, 1.1 eq.) of sodium hydroxide in 5 mL of water was added to a solution of 4.3 g (45 mmol, 1.1 eq.) of guanidine HCl in 10 mL of water. The resulting solution was added to the above described oil. The resulting mixture was stirred at room temperature for 48 h. The mixture was filtered to provide 2.5 g (15 mmol, 36%) of 2-aminopyrimidine-4-carboxaldehyde dimethylacetal (I-8).

reactant | dimethylformamide dimethyl acetal | 41 mmol, 5.5 mL, 1.0 eq. | COC(N(C)C)OC | C5H13NO2
reactant | pyruvic aldehyde dimethyl acetal | 41 mmol, 5.0 mL, 1.0 eq. | CC(=O)C(OC)OC | C5H10O3
reactant | sodium hydroxide | 45 mmol, 1.8 g, 1.1 eq. | [OH-].[Na+]
reactant | guanidine HCl | 45 mmol, 4.3 g, 1.1 eq. | Cl.NC(=N)N
solvent | water | 5 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 2-aminopyrimidine-4-carboxaldehyde dimethylacetal | 15 mmol, 2.5 g, 36% | COC(C1=NC(=NC=C1)N)OC | C7H11N3O2
